US06911463B2
Lithium aluminum hydride (LAH, 24 g, 600 mmol) is added portionwise to dry tetrahydrofuran (1800 mL) at −5° C. to 5° C. A solution of the nitroolefin from above (61.6 g, 200 mmol) in tetrahydrofuran (1200 mL) is added to the LAH solution over 30 minutes while maintaining the temperature at −5° C. to 5° C. When the addition is complete, the reaction mixture is allowed to warm to 30° C. over 1.5 hours and is stirred at 25° C. to 35° C. for 2 hours. To complete the reaction, the mixture is heated to 60° C. for 30 minutes. After cooling to 0° C., the reaction is quenched by the sequential addition of water (30 mL), 5 N NaOH (30 mL), and water (100 mL) and the resulting mixture is stirred over the weekend. The aluminum salts are removed by filtration and the cake rinsed with tetrahydrofuran (500 mL). The combined filtrates are concentrated to give 47.6 g (55% purity corrected yield, approx 65% pure) of 7-benzyloxy-3-(2-aminopropyl)-1H-indole.

reactant | Lithium aluminum hydride | 600 mmol, 24 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7-benzyloxy-3-(2-nitroprop-1-enyl)-1H-indole | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CNC12)C=C(C)[N+](=O)[O-] | C18H16N2O3
solvent | tetrahydrofuran | 1200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1800 mL | O1CCCC1 | C4H8O
product | 7-benzyloxy-3-(2-aminopropyl)-1H-indole | 47.6 g | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CNC12)CC(C)N | C18H20N2O
